US07384934B2
(S)-10-[3-(4-Methoxy-butyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Into a room temperature stirred solution of (S)-10-[3-(4-methoxybutyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (0.015 g, 0.038 mmol) in CH2Cl2 add 2.0 N HCl in Et2O (0.038 mL, 0.07 mmol) and stir for 1 h. Concentrate the mixture under reduced pressure and dry in a vacuum oven at 60° C. overnight to give the title compound: brown solid (0.018 g), mass spectrum (m/e):399.0 (M+1).

reactant | (S)-10-[3-(4-methoxybutyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.038 mmol, 0.015 g | COCCCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C22H30N4OS
reactant | HCl | 2.0 N | Cl | ClH
reactant | Et2O | 0.07 mmol, 0.038 mL | CCOCC | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-10-[3-(4-Methoxy-butyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | Cl.Cl.COCCCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | InChI=1S/C22H30N4OS.2ClH/c1-16-14-18-21(23-19-9-4-5-10-20(19)24-22(18)28-16)26-12-11-25(2)17(15-26)8-6-7-13-27-3;;/h4-5,9-10,14,17,24H,6-8,11-13,15H2,1-3H3;2*1H/t17-;;/m0../s1
